US07781612B2
CF3CF2CF2OCF(CF3)CF2OCF(CF3)COF obtained in Example 2-6 is reacted with methanol in an equimolar amount in the presence of sodium fluoride to obtain CF3CF2CF2OCF(CF3)CF2OCF(CF3)COOCH3. The obtained CF3CF2CF2OCF(CF3)CF2OCF(CF3)COOCH3 is reacted with sodium borohydride in 2-propanol to obtain CF3CF2CF2OCF(CF3)CF2OCF(CF3)CH2OH. The obtained CF3CF2CF2OCF(CF3)CF2OCF(CF3)CH2OH is employed as the compound in Example 2-1 to carry out the same reaction. Further, the same reactions as in Examples 2-2 to 2-6 are carried out to obtain FSO2CF2CF2COF and CF3CF2CF2OCF(CF3)CF2OCF(CF3)COF.

reactant | CF3CF2CF2OCF(CF3)CF2OCF(CF3)COOCH3 | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)C(=O)OC | C10H3F17O4
reactant | sodium borohydride | [BH4-].[Na+]
solvent | 2-propanol | CC(C)O | C3H8O
product | CF3CF2CF2OCF(CF3)CF2OCF(CF3)CH2OH | C(F)(F)(F)C(F)(F)C(F)(F)OC(F)(C(F)(F)F)C(F)(F)OC(F)(C(F)(F)F)CO | C9H3F17O3
